US03966942
A mixture of 25 g. (0.12 m.) of 3-phenylrhodanine, 80 g. (0.34 m.) of triethylorthophenylacetate [prepared as described in J.A.C.S. 68, 1917 (1946)] and 250 ml. of acetic anhydride is heated under reflux for 20 hours and the solution is then concentrated in vacuo. The residue is filtered and the solid is stirred with 160 ml. of dioxane, 160 ml. of water and 40 ml. of 10% sodium hydroxide for 4 hours. The solution is concentrated in vacuo at 35°-40°C. to evaporate the dioxane. The aqueous solution, after washing with ether and decolorizing with charcoal, is made acidic with dilute hydrochloric acid. The solid product is purified by chromatography to give 5-(1'-hydroxy-2'-phenylethylidene)-3-phenyl-rhodanine, m.p. 146-148°C.

reactant | 3-phenylrhodanine | C1(=CC=CC=C1)N1C(SCC1=O)=S | C9H7NOS2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 5-(1'-hydroxy-2'-phenylethylidene)-3-phenyl-rhodanine | OC(CC1=CC=CC=C1)=C1C(N(C(S1)=S)C1=CC=CC=C1)=O | C17H13NO2S2
